US08975415B2
To sulfuric acid (5 mL) was added 1-[(4-bromophenoxy)methyl]cyclobutanecarboxylic acid (1.9 g, 6.6 mmol) at 0° C. in an ice bath. After stirring for 1 hour at room temperature, ice was added to the mixture portionwise. The mixture was diluted with water, and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel chromatography (hexane:EtOAc=100:0-70:30) to give 6-bromo-4H-spiro[chromene-3,1′-cyclobutan]-4-one (649 mg).

reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | 1-[(4-bromophenoxy)methyl]cyclobutanecarboxylic acid | 6.6 mmol, 1.9 g | BrC1=CC=C(OCC2(CCC2)C(=O)O)C=C1 | C12H13BrO3
solvent | water | O | H2O
product | 6-bromo-4H-spiro[chromene-3,1′-cyclobutan]-4-one | 649 mg | BrC=1C=C2C(C3(CCC3)COC2=CC1)=O | C12H11BrO2
